US08859574B2
To a mixture of 2-fluoro-4-(4-methylpiperazin-1-yl)-5-(trifluoromethyl)aniline (37 mg, 0.133 mmol) and 2,5-dichloro-N-(5-methyl-1H-pyrazol-3-yl)pyrimidin-4-amine (36 mg, 0.147 mmol) in iPrOH (1 mL) was added HCl (100 uL, 4N in dioxane). The reaction vessel was then sealed and heated to 130° C. for 4 hr. After cooling to room temperature, the mixture was treated with saturated NaHCO3 aqueous solution (5 mL) and extracted with EtOAc (3×5 mL). The organic layers were combined and concentrated. The residue was purified by preparative thin layer chromatography (silica gel, 8% MeOH/CH2Cl2), to provide 5-chloro-N2-(2-fluoro-4-(4-methylpiperazin-1-yl)-5-(trifluoromethyl)phenyl)-N4-(5-methyl-1H-pyrazol-3-yl)pyrimidine-2,4-diamine. ESMS m/z 485.2 (M+H+).

reactant | 2-fluoro-4-(4-methylpiperazin-1-yl)-5-(trifluoromethyl)aniline | 0.133 mmol, 37 mg | FC1=C(N)C=C(C(=C1)N1CCN(CC1)C)C(F)(F)F | C12H15F4N3
reactant | 2,5-dichloro-N-(5-methyl-1H-pyrazol-3-yl)pyrimidin-4-amine | 0.147 mmol, 36 mg | ClC1=NC=C(C(=N1)NC1=NNC(=C1)C)Cl | C8H7Cl2N5
reactant | HCl | 4N, 100 uL | Cl | ClH
reactant | NaHCO3 | 5 mL | C(=O)(O)[O-].[Na+]
solvent | iPrOH | 1 mL | CC(C)O | C3H8O
product | 5-chloro-N2-(2-fluoro-4-(4-methylpiperazin-1-yl)-5-(trifluoromethyl)phenyl)-N4-(5-methyl-1H-pyrazol-3-yl)pyrimidine-2,4-diamine | ClC=1C(=NC(=NC1)NC1=C(C=C(C(=C1)C(F)(F)F)N1CCN(CC1)C)F)NC1=NNC(=C1)C | C20H21ClF4N8
